US08669271B2
4-[5-(4-Carboxymethyl-phenyl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester
The title compound is prepared from 4-(5-bromo-2,3-dihydro-benzofuran-2-yl)-piperidine-1-carboxylic acid isopropyl ester and 4-(ethoxycarbonylmethyl)phenyl boronic acid following a procedure analogous to that described for Intermediate 63. LC (method 5): tR=1.58 min; Mass spectrum (ESI+): m/z=424 [M+H]+.

reactant | 4-(5-bromo-2,3-dihydro-benzofuran-2-yl)-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)Br | C17H22BrNO3
reactant | 4-(ethoxycarbonylmethyl)phenyl boronic acid | C(C)OC(=O)CC1=CC=C(C=C1)B(O)O | C10H13BO4
product | 4-[5-(4-Carboxymethyl-phenyl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)C2=CC=C(C=C2)CC(=O)O | C25H29NO5
